* GS8054 250MHz Op-Amp - Fixed pole frequency
.subckt GS8054 1 2 3 4 5 6 7 8 9 10 11 12 13 14
XOP1 3 2 4 11 1 GS805X_fixed
XOP2 5 6 4 11 7 GS805X_fixed
XOP3 10 9 4 11 8 GS805X_fixed
XOP4 12 13 4 11 14 GS805X_fixed
.ends GS8054

* Fixed single op-amp model
.subckt GS805X_fixed IN+ IN- VCC VEE OUT
* Input stage
Rin IN+ IN- 10G
Cin IN+ IN- 2p
Vos IN+ 1 DC 2m

* Transconductance stage
* For GBW = 250MHz with Aol = 100k (100dB):
* fp = GBW/Aol = 250MHz/100k = 2.5kHz
Gm 0 2 1 IN- 0.1

* Dominant pole at 2.5kHz
* R = 1/(2*pi*2.5kHz*C) = 63.66k for C=1nF
Rout 2 0 63.66k
Cc 2 0 1n

* Voltage buffer
Ebuffer OUT 0 2 0 1

* Output resistance
Ro OUT 0 1G

* Rail clamping
D1 OUT 3 Dclamp
D2 4 OUT Dclamp
Vhi VCC 3 0.1
Vlo 4 VEE 0.1

.model Dclamp D(Is=1e-14 Rs=1 N=1)
.ends GS805X_fixed
