* LM285-1.2 Bandgap Reference Model
* Pin order: Cathode(K) Anode(A)
.subckt LM285-1.2 K A
* Internal voltage reference node
V1 K n1 DC 1.235
* Dynamic resistance (typically 0.5-1 ohm)
R1 n1 n2 0.8
* Minimum load resistance to ensure convergence
R2 n2 A 1
* Protection diode for forward conduction
D1 A K Dprot
.model Dprot D(Is=1e-14 Rs=1 N=1.2 Bv=10 Ibv=10m)
.ends LM285-1.2
